US09399623B2
Step 2. 6-Chloro-2-(1-methyl-piperidin-4-yl)-quinoline-5-carboxylic acid (4,4-difluoro-cyclohexyl methyl)-amide
The title compound was synthesized according to the procedure described in example 126 using 6-chloro-2-(1-methyl-1,2,3,6-tetrahydro-pyridin-4-yl)-quinoline-5-carboxylic acid (4,4-difluoro-cyclohexylmethyl)-amide, palladium on carbon and triethylsilane. 1H NMR (400 MHz, DMSO-d6) δ 8.80 (t, J=5.81 Hz, 1H), 8.05 (d, J=8.72 Hz, 1H), 7.98 (d, J=9.01 Hz, 1H), 7.78 (d, J=9.01 Hz, 1H), 7.61 (d, J=8.71 Hz, 1H), 3.27 (t, J=6.21 Hz, 4H), 3.04 (s, 1H), 2.69 (s, 2H), 2.58 (s, 3H), 2.03 (s, 6H), 1.74-1.86 (m, 5H), 1.22-1.33 (m, 2H). m/z: 436.0 [M+H]+

reactant | 6-chloro-2-(1-methyl-1,2,3,6-tetrahydro-pyridin-4-yl)-quinoline-5-carboxylic acid (4,4-difluoro-cyclohexylmethyl)-amide | FC1(CCC(CC1)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)C=1CCN(CC1)C)F | C23H26ClF2N3O
reactant | triethylsilane | C(C)[SiH](CC)CC | C6H16Si
catalyst | palladium on carbon | [Pd] | Pd
product | 6-Chloro-2-(1-methyl-piperidin-4-yl)-quinoline-5-carboxylic acid (4,4-difluoro-cyclohexyl methyl)-amide | FC1(CCC(CC1)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)C1CCN(CC1)C)F | C23H28ClF2N3O
